US05620966
7 g of 4-hydroxy-2-methyl-(methylsulfonyl)benzene were dissolved in 210 ml of dichloromethane and 14 ml of pyridine. After cooling of the mixture to 0°-5° C., a solution of 7.1 ml of triflic anhydride in 70 ml of dichloromethane was added in 30 minutes. Stirring was continued for 1 hour at room temperature. Work-up was accomplished by pouring the mixture onto ice-water and extracting with dichloromethane. Evaporation and purification with column chromatography (heptane/ethyl acetate 6/4) provided 9.9 g of 4-[(trifluoromethyl)sulfonyl]oxy-2-methyl-(methylsulfonyl)benzene;

reactant | 4-hydroxy-2-methyl-(methylsulfonyl)benzene | 7 g | OC1=CC(=C(C=C1)S(=O)(=O)C)C | C8H10O3S
reactant | triflic anhydride | 7.1 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 210 ml | ClCCl | CH2Cl2
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-[(trifluoromethyl)sulfonyl]oxy-2-methyl-(methylsulfonyl)benzene | 9.9 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)S(=O)(=O)C)C)(F)F | C9H9F3O5S2
